US07576108B2
c: (E)-3-Cyclohexyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester
Dissolve (Z)-2-bromo-3-cyclohexyl-acrylic acid ethyl ester (76.4 g, 300 mmol) and 4-(methylthio)benzene boronic acid (60.5 g, 360 mmol) in a mixture of 1500 mL toluene, 500 mL ethanol and 2M aqueous sodium carbonate solution (500 mL). Add tetrakis(triphenylphosphino)palladium(0) (10.4 g, 3mol %) and heat the mixture at reflux for 5 h. Cool and remove the ethanol under vacuum. Partition the residue between water (250 mL) and dichloromethane (4×250 mL). Combine the extracts and dry over magnesium sulfate, filter and concentrate. Pass through a silica gel pad with a mix of iso-hexane:dichloromethane:diethyl ether (92:4:4) to give the title compound as a hazy oil (80 g). GC-MS (m/e): 304 (M+).

reactant | (Z)-2-bromo-3-cyclohexyl-acrylic acid ethyl ester | 300 mmol, 76.4 g | C(C)OC(/C(=C/C1CCCCC1)/Br)=O | C11H17BrO2
reactant | 4-(methylthio)benzene boronic acid | 360 mmol, 60.5 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | ethanol | 500 mL | C(C)O | C2H6O
reactant | sodium carbonate | 2M, 500 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 1500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphino)palladium(0) | 10.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-3-Cyclohexyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester | 80 g | C(C)OC(\C(=C\C1CCCCC1)\C1=CC=C(C=C1)SC)=O | C18H24O2S
